Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"I've been really anxious and keeping it all inside"
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Briefly, Ms. ___ is a ___ year old woman from ___, 
sophomore at ___, who presents to psychiatry for 
consultation after being sent into the ___ ED on a Section 12a 
from ___ counseling services, after having 
presented there for counseling and expressing suicidal ideation. 
Briefly, as per ___ counselor on-call (collateral below), Ms. 
___ presented to ___ counseling services complaining of 
suicidal thoughts, with plan to walk into traffic, and reporting 
that she had attempted to smother herself with a pillow 
___.

In the ED, patient reported worries of being alone and becoming 
homeless. She reports this thought bothering her over the 
weekend and precipitating suicide attempt in which she put 
pillow over her face until she was out of breath and then stated 
___, nevermind, I've got to go through the ay again." Patient 
also
reports recent relationship stressor of boyfriend not 
reciprocating love. Over the last week, patient reports 
preoccupation with feeling very lonely, worried about losing 
people, and worried about being alone, and experiencing SI 
in that setting.  Patient became increasingly restless in the ED 
and reported that she worried the medical team would kill her. 
Patient attempted to elope and received a chemical restraint. 

On interview, patient reports anxiety upon reaching the floor, 
but states that she is hoping to work on ways to reduce her 
anxiety. She also reports that she is glad her family now knows 
how she is feeling and she feels more supported than last week. 
   
Psych ROS: Endorses anxiety, endorses passive SI but denies any 
current plan or thoughts, Denies symptoms of Mania or psychosis. 

   
ED Course/Medication admins:
Received one chemical restraint at ___ 11:31 (Haldol 5mg 
IM /Ativan 2mg IM) due to agitation and attempt to elope. 

 
Past Medical History:
Past psychiatric history: 
Hospitalizations: denies
Current treaters and treatment: denies 
Medication and ECT trials: denies 
Self-injury: denies 
Harm to others: denies
Access to weapons: denies 
   
Past medical history: 
none
 
Social History:
Substance use history: 
- EtoH: has been drinking at parties this past semester, on 
weekends, estimates ___ shots per party; denies drinking outside 
of parties. Reports blacking out 2 weeks ago, at which point she 
is told she "kissed ___, but she has no recollection of this.

Forensic history: ___
Personal and Social History: ___
Family History:
Family psychiatric history: 
- no family history of known psychiatric illness on paternal 
side, as per aunt
- history unclear on mother's side, patient is unaware
 
Physical Exam:
ADMISSION PHYSICAL EXAMINATION:

VS: T:98.2 , BP:118/83 , HR:109 , R:18 , O2 sat: 99% on RA

General: Middle-aged female in NAD. Well-nourished, 
well-developed. Appears stated age.
 HEENT: Normocephalic, atraumatic. PERRL, EOMI. Oropharynx 
clear.
 Back: No significant deformity.
 Lungs: CTA ___. No crackles, wheezes, or rhonchi.
 CV: RRR, no murmurs/rubs/gallops. 
 Abdomen: +BS, soft, nontender, nondistended. No palpable masses 
or organomegaly.
 Skin: Lips chapped, no rashes, abrasions, scars, or lesions. 

Neurological:
 Cranial Nerves: II-XII grossly intact
 Motor: Normal bulk and tone bilaterally. No abnormal movements, 
no tremor.  
 Sensation: Intact to light touch throughout. 
 Gait: Steady. Normal stance and posture. No truncal ataxia.

Cognition: 
 Wakefulness/alertness: awake and alert
 Attention: intact to interview
 Orientation: oriented to person, time, place, situation
 Memory: intact to recent and past history
 Fund of knowledge: consistent with education
 Speech: normal rate, decreased volume, and normal tone
 Language: native ___ speaker, no paraphasic errors,
appropriate to conversation

Mental Status:
 Appearance: No apparent distress, appears stated age, well 
groomed, wearing hospital gown
 Behavior: Calm, cooperative, somewhat guarded, appropriate eye 
contact, no psychomotor agitation or retardation
 Mood and Affect: "anxious" / mood-congruent, guarded
 Thought Process: linear, coherent, goal-oriented. No LOA.
 Thought Content: denies SI/HI/AH/VH, no evidence of delusions 
or paranoia
 Judgment and Insight: guarded / guarded

 
Pertinent Results:
___ 09:20PM BLOOD WBC-11.2* RBC-4.32 Hgb-12.9 Hct-40.0 
MCV-93 MCH-29.9 MCHC-32.3 RDW-12.2 RDWSD-41.9 Plt ___
___ 09:20PM BLOOD Neuts-68.8 ___ Monos-8.0 Eos-0.4* 
Baso-0.3 Im ___ AbsNeut-7.72* AbsLymp-2.48 AbsMono-0.90* 
AbsEos-0.04 AbsBaso-0.03
___ 09:20PM BLOOD Glucose-112* UreaN-12 Creat-0.7 Na-137 
K-3.3 Cl-100 HCO3-20* AnGap-20
___ 09:20PM BLOOD VitB12-914*
___ 09:20PM BLOOD TSH-1.0
___ 09:20PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
 
Brief Hospital Course:
Ms. ___ is a ___ year old ___ F, sophomore at ___ 
___, with a recent history of affective dysregulation, 
anxiety, suicidal thoughts, admitted after a suicide attempt by 
smothering herself with a pillow in the context of academic, 
familial, and relationship stressors who presented to ___ 
___ counseling and expressing suicidal ideation. 

On interview, patient endorses suicidal ideation ___ escalating 
symptoms of anxiety that began over the weekend. She has poor 
concentration, labile affect, and appears to be somewhat 
guarded, superficial, minimizing, and concrete in describing her 
current symptoms and stressors. 

1. Legal/Safety
-Admitted on CV and remained on that level throughout admission
-Required chemical restraint in ED due to agitation. Did not 
require any further restraints on the inpatient unit
-Was in good behavioral control and maintained safety while on 
the inpatient unit
-Remained on Q15 minute checks throughout hospitalization
-Was appropriate for green sharps throughout hospitalization

2. Psychiatric
#Unspecified anxiety disorder, r/o unspecified mood disorder 
-Discusses risks and benefits of treatment with patient, started 
on Zoloft 25 mg QHS which she tolerated well with no side 
effects
-Discussed risks and benefits of treatment with patient and plan 
to use Ativan as a short-term medication until her anxiety is 
better-controlled. Patient started on Ativan 0.5 mg BID with 
good effect and no reported side effects
-Patient was offered Vistaril 25 mg q6h PRN which she utilized 
sporadically with good effect. 
-Patient showed improvement in mood, anxiety, and thought 
organization. She appeared brighter on exam and less anxious. 
Per both patient and mother, ___ was at her baseline on the 
day of discharge. She denied suicidal ideation/intent/plan and 
urges for self-harm
-She agreed with plan for discharge to hotel with her mother 
with plan to get in touch with ___ on 
___ morning to schedule re-entry and to call ___, 
___ to follow-up appointments on ___ following discharge.
-Discharged without PRN medications with plan for re-entry 
appointment at ___ and link to outpatient treaters several days 
post-discharge. 

3. Medical
-No acute medical issues 

4. Collateral Contacts
-Met with patient's mother who flew in from ___. At the 
time of discharge she expressed plan to stay in the ___ area 
for ~2 weeks and would be available to care for her daughter. 
She noted that the patient seemed to be at her baseline on the 
day of discharge and felt safe/comfortable with plan to 
discharge patient to stay in hotel with her due to school 
___ with plan to set up re-entry appointment on 
___ morning at ___.
 
Medications on Admission:
None
 
Discharge Medications:
1.  LORazepam 0.5 mg PO BID 
RX *lorazepam 0.5 mg 1 tablet by mouth twice per day Disp #*28 
Tablet Refills:*0 
2.  Sertraline 25 mg PO QHS 
RX *sertraline 25 mg 1 tablet(s) by mouth nightly Disp #*14 
Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Generalized anxiety disorder
Unspecified mood disorder 

 
Discharge Condition:
VS: T 97.8, BP 116/73, HR 108, RR 18, O2 99% RA

Station/Gait: Normal gait and station
Tone and strength: Moves all 4 extremities, no deficiencies 
noted on gross exam

Appearance: NAD, appears stated age, dressed in sweater, jeans 
and black boots
Behavior: Calm, cooperative, good eye contact
Speech: Normal rate and volume
Mood: 'good'
Affect: Mood congruent
Thought Process: Linear, goal-oriented, concrete
Thought Content: Denies SI/HI/AH/VH. No evidence of delusions or 
paranoia
Insight/Judgment: Fair/fair

Cognition:
Attention: Attentive to interview
Orientation: Awake, alert, and oriented x 3
Memory: Short and long term memory grossly intact
Fund of knowledge: Average, not formally tested
Language: Fluent ___

 
Discharge Instructions:
You were hospitalized at ___ for suicide attempt in the 
setting of increasing anxiety

-Please call the ___ Behavioral Health Dept to schedule a 
re-entry appointment on ___ morning so you can return to 
school/your dorm
-Please call ___ on ___ regarding outpatient appointments 
for psychiatry and therapy
-Please take this discharge paperwork to your appointments.
-Please continue all medications as directed.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.

It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___